**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 Aluminum Polymer Capacitors
* Matchcode:             WCAP-PTHT
* Library Type:          Pspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         6/1/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt PTHT_870135174001_390uF 1 2
Rser 1 3 0.0071523244531
Lser 2 4 4.425342564E-09
C1 3 4 0.00039
Rpar 3 4 12820.5128205128
.ends PTHT_870135174001_390uF
*******
.subckt PTHT_870135174002_470uF 1 2
Rser 1 3 0.00871164014401
Lser 2 4 3.595323113E-09
C1 3 4 0.00047
Rpar 3 4 10641.8918918919
.ends PTHT_870135174002_470uF
*******
.subckt PTHT_870135174003_560uF 1 2
Rser 1 3 0.00737474706152
Lser 2 4 5.160252998E-09
C1 3 4 0.00056
Rpar 3 4 8928.57142857143
.ends PTHT_870135174003_560uF
*******
.subckt PTHT_870135174004_680uF 1 2
Rser 1 3 0.00776416476606
Lser 2 4 5.167449396E-09
C1 3 4 0.00068
Rpar 3 4 14719.6261682243
.ends PTHT_870135174004_680uF
*******
.subckt PTHT_870135174005_820uF 1 2
Rser 1 3 0.00787442749167
Lser 2 4 5.783514428E-09
C1 3 4 0.00082
Rpar 3 4 12195.1219512195
.ends PTHT_870135174005_820uF
*******
.subckt PTHT_870135174006_1mF 1 2
Rser 1 3 0.00719663555261
Lser 2 4 5.338928999E-09
C1 3 4 0.001
Rpar 3 4 10000
.ends PTHT_870135174006_1mF
*******
.subckt PTHT_870135175007_1R2mF 1 2
Rser 1 3 0.00644369392034
Lser 2 4 6.747874009E-09
C1 3 4 0.0012
Rpar 3 4 8333.33333333333
.ends PTHT_870135175007_1R2mF
*******
.subckt PTHT_870135175008_1R5mF 1 2
Rser 1 3 0.00674215163726
Lser 2 4 5.32429593E-09
C1 3 4 0.0015
Rpar 3 4 6666.66666666667
.ends PTHT_870135175008_1R5mF
*******
.subckt PTHT_870135175009_2mF 1 2
Rser 1 3 0.00932531827826
Lser 2 4 7.252372022E-09
C1 3 4 0.002
Rpar 3 4 5000
.ends PTHT_870135175009_2mF
*******
.subckt PTHT_870135373001_100uF 1 2
Rser 1 3 0.00641483040024
Lser 2 4 3.543351907E-09
C1 3 4 0.0001
Rpar 3 4 100000
.ends PTHT_870135373001_100uF
*******
.subckt PTHT_870135374002_180uF 1 2
Rser 1 3 0.00652197615459
Lser 2 4 4.677043732E-09
C1 3 4 0.00018
Rpar 3 4 55555.5555555556
.ends PTHT_870135374002_180uF
*******
.subckt PTHT_870135374003_220uF 1 2
Rser 1 3 0.00877652481595
Lser 2 4 5.644439486E-09
C1 3 4 0.00022
Rpar 3 4 45454.5454545455
.ends PTHT_870135374003_220uF
*******
.subckt PTHT_870135374004_270uF 1 2
Rser 1 3 0.00883922623866
Lser 2 4 3.700762711E-09
C1 3 4 0.00027
Rpar 3 4 37037.037037037
.ends PTHT_870135374004_270uF
*******
.subckt PTHT_870135374005_330uF 1 2
Rser 1 3 0.00852752463652
Lser 2 4 5.275483751E-09
C1 3 4 0.00033
Rpar 3 4 30303.0303030303
.ends PTHT_870135374005_330uF
*******
.subckt PTHT_870135375006_390uF 1 2
Rser 1 3 0.00965939442461
Lser 2 4 9.874317542E-09
C1 3 4 0.00039
Rpar 3 4 25641.0256410256
.ends PTHT_870135375006_390uF
*******
.subckt PTHT_870135375007_470uF 1 2
Rser 1 3 0.00866812132119
Lser 2 4 7.838258284E-09
C1 3 4 0.00047
Rpar 3 4 21276.5957446809
.ends PTHT_870135375007_470uF
*******
.subckt PTHT_870135375008_560uF 1 2
Rser 1 3 0.00854427834478
Lser 2 4 6.245511229E-09
C1 3 4 0.00056
Rpar 3 4 17857.1428571429
.ends PTHT_870135375008_560uF
*******
.subckt PTHT_870135674001_39uF 1 2
Rser 1 3 0.0136377429878
Lser 2 4 4.894543365E-09
C1 3 4 0.000039
Rpar 3 4 128205.128205128
.ends PTHT_870135674001_39uF
*******
.subckt PTHT_870135674002_56uF 1 2
Rser 1 3 0.0112194277432
Lser 2 4 3.167191287E-09
C1 3 4 0.000056
Rpar 3 4 89285.7142857143
.ends PTHT_870135674002_56uF
*******
.subckt PTHT_870135675003_100uF 1 2
Rser 1 3 0.00975355090498
Lser 2 4 6.987042841E-09
C1 3 4 0.0001
Rpar 3 4 50000
.ends PTHT_870135675003_100uF
*******
.subckt PTHT_870135774001_22uF 1 2
Rser 1 3 0.019237673918
Lser 2 4 4.557424188E-09
C1 3 4 0.000022
Rpar 3 4 227272.727272727
.ends PTHT_870135774001_22uF
*******
.subckt PTHT_870135774002_27uF 1 2
Rser 1 3 0.0174593602831
Lser 2 4 4.79601385E-09
C1 3 4 0.000027
Rpar 3 4 185185.185185185
.ends PTHT_870135774002_27uF
*******
.subckt PTHT_870135775003_33uF 1 2
Rser 1 3 0.00960737209185
Lser 2 4 6.467774623E-09
C1 3 4 0.000033
Rpar 3 4 151515.151515152
.ends PTHT_870135775003_33uF
*******
.subckt PTHT_870135775004_47uF 1 2
Rser 1 3 0.0107605384352
Lser 2 4 5.281922527E-09
C1 3 4 0.000047
Rpar 3 4 106382.978723404
.ends PTHT_870135775004_47uF
*******
