**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 Supercapacitors (EDLCs) 
* Matchcode:             WCAP-SISC
* Library Type:          Pspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         2022-03-23
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt SISC_851617031001_100F 1 2
Rser 1 3 0.012
Lser 2 4 0.000000025
C1 3 4 100
Rpar 3 4 4909.09090909091
.ends SISC_851617031001_100F
*******
.subckt SISC_851617034001_350F 1 2
Rser 1 3 0.003
Lser 2 4 0.000000025
C1 3 4 350
Rpar 3 4 1800
.ends SISC_851617034001_350F
*******
