**************************************************
* Manufacturer:          Wurth Elektronik 
* Kinds:                 Supercapacitors (EDLCs)
* Matchcode:             WCAP-STSC
* Library Type:          Pspice
* Version:               rev22a
* Created/modified by:   Ella
* Date and Time:         6/1/2022
* Team:                  eiSos EDA Service  
* Contact:               libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt STSC_850617021001_5F 1 2
Rser 1 3 0.045
Lser 2 4 0.000000025
C1 3 4 5
Rpar 3 4 66761.8678674813
.ends STSC_850617021001_5F
*******
.subckt STSC_850617021002_7F 1 2
Rser 1 3 0.04
Lser 2 4 0.000000025
C1 3 4 7
Rpar 3 4 50965.3615167313
.ends STSC_850617021002_7F
*******
.subckt STSC_850617021004_10F 1 2
Rser 1 3 0.035
Lser 2 4 0.000000025
C1 3 4 10
Rpar 3 4 54446.2322655869
.ends STSC_850617021004_10F
*******
.subckt STSC_850617021005_15F 1 2
Rser 1 3 0.03
Lser 2 4 0.000000025
C1 3 4 15
Rpar 3 4 91714.674507264
.ends STSC_850617021005_15F
*******
.subckt STSC_850617022001_25F 1 2
Rser 1 3 0.02
Lser 2 4 0.000000025
C1 3 4 25
Rpar 3 4 58711.67694
.ends STSC_850617022001_25F
*******
.subckt STSC_850617022002_50F 1 2
Rser 1 3 0.018
Lser 2 4 0.000000025
C1 3 4 50
Rpar 3 4 110123.564781272
.ends STSC_850617022002_50F
*******
.subckt STSC_850617030001_3F 1 2
Rser 1 3 0.065
Lser 2 4 0.000000025
C1 3 4 3
Rpar 3 4 103875.657014945
.ends STSC_850617030001_3F
*******
